US07253192B2
C] 2-{2,5-Dichloro-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-2-methyl-propionic acid methyl ester
In analogy to the procedure described in. example 20A], 2-(2,5-dichloro-4-hydroxy-phenoxy)-2-methyl-propionic acid methyl ester was treated with methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester (example 1G]) in acetonitrile at the reflux temperature of the solvent for 3 h to give the title compound as colorless oil.

reactant | 2-(2,5-dichloro-4-hydroxy-phenoxy)-2-methyl-propionic acid methyl ester | COC(C(C)(C)OC1=C(C=C(C(=C1)Cl)O)Cl)=O | C11H12Cl2O4
reactant | methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC1=CC=C(C=C1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{2,5-Dichloro-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-2-methyl-propionic acid methyl ester | COC(C(C)(C)OC1=C(C=C(C(=C1)Cl)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)Cl)=O | C23H21Cl2F3O5
